US08912186B2
To a solution of phenacyl bromide (1 g), 4-chlorothiophenol (1.37 g), and benzyl triethyl ammonium chloride (78 mg) in dichloromethane (20 ml) NaOH (0.61 g) in water (2 ml) was added. The mixture was stirred vigorously at rt for 16 h. After dilution with water (50 ml) the organic layer was separated, washed with brine (20 ml), dried (MgSO4), and evaporated. The crude was purified by column chromatography on silica gel (petrol ether/ethyl acetate 12:1) to provide 2-(4-chlorophenylthio)-1-phenylethanone (0.74 g) as pale yellow solid.

reactant | phenacyl bromide | 1 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 4-chlorothiophenol | 1.37 g | ClC1=CC=C(C=C1)S | C6H5ClS
catalyst | benzyl triethyl ammonium chloride | 78 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | 20 ml, 0.61 g | ClCCl | CH2Cl2
solvent | water | 2 ml | O | H2O
product | 2-(4-chlorophenylthio)-1-phenylethanone | 0.74 g | ClC1=CC=C(C=C1)SCC(=O)C1=CC=CC=C1 | C14H11ClOS
